US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid [1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-amide
The title compound was synthesized in analogy to Example 6, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g) and α,α,5-trimethyl-1,2,4-oxadiazole-3-methanamine hydrochloride (CAN 1240526-27-5) as starting materials, and isolated (64 mg, 84%) as light yellow solid; LC-MS (UV peak area, ESI) 100%, 358.1869 (M+H).

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | α,α,5-trimethyl-1,2,4-oxadiazole-3-methanamine hydrochloride | Cl.CC(N)(C1=NOC(=N1)C)C
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid [1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-amide | CC(C)(C1=NOC(=N1)C)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C18H23N5O3
